US03952017
23 g. of 5-Hydroxy-1-methyl-5H-dibenzo[a,d]cycloheptene in 200 ml. of absolute benzene are heated with 45 ml. of thionylchloride for two hours under reflux conditions. The mixture is subsequently evaporated under reduced pressure. The resulting, white crystalline residue is recrystallized from carbon tetrachloride. 5-Chloro-1-methyl-5H-dibenzo[a,d]cycloheptene, melting at 158°-160°C., is obtained.

reactant | 5-Hydroxy-1-methyl-5H-dibenzo[a,d]cycloheptene | OC1C2=C(C=CC3=C1C=CC=C3C)C=CC=C2 | C16H14O
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-Chloro-1-methyl-5H-dibenzo[a,d]cycloheptene | ClC1C2=C(C=CC3=C1C=CC=C3C)C=CC=C2 | C16H13Cl
